US08022206B2
1-[4-{6-Amino-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-3,6-dihydropyridin-1(2H)-yl]-2-hydroxyethanone
A mixture of 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydro-pyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine (0.010 g, 0.024 mmol), DIPEA (0.00918 g, 0.071 mmol), TBTU (0.0228 g, 0.071 mmol) in DCM (2 mL) was added Glycolic acid (0.00360 g, 0.0474 mmol) at 0° C. The mixture was stirred for 1 h. The reaction mixture was directly loaded onto Prep TLC for purification (silica gel, eluting with 4% MeOH in DCM) to afford the title compound as a yellow solid. 1H-NMR (CD3OD, 400 MHz): δ=1.88 (d, J=6.8 Hz, 3H), 2.53 (d, J=17.2 Hz, 2H), 3.63 (t, J=5.8 Hz, 1H), 3.83 (t, J=5.8 Hz, 1H), 4.12 (d, J=2.0 Hz, 1H), 4.26 (s, 2H), 4.30 (s, 1H), 6.29 (d, 1H), 6.49 (q, J=6.7 Hz, 1H), 7.15-7.25 (m, 1H), 7.39 (dd, J=9.0, 4.9 Hz, 1H), 7.64 (d, J=10.4 Hz, 1H), 8.20 (s, 1H). MS (ES+): m/z 480.01 (MH+, 35Cl, 37Cl), 481.96 (MH+, 37Cl, 37Cl). HPLC: tR=2.76 min (polar—5 min, ZQ3).

reactant | 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydro-pyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine | 0.024 mmol, 0.010 g | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCNCC2 | C20H18Cl2FN3O2
reactant | DIPEA | 0.071 mmol, 0.00918 g | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.071 mmol, 0.0228 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | Glycolic acid | 0.0474 mmol, 0.00360 g | C(CO)(=O)O | C2H4O3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-{6-Amino-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-3,6-dihydropyridin-1(2H)-yl]-2-hydroxyethanone | NC1=C(C2=C(C=N1)C(=CO2)C=2CCN(CC2)C(CO)=O)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C22H20Cl2FN3O4
